US07067517B2
Methyl-phenyl-carbamic acid 3-(4-fluorobenzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound was prepared from 3-(4-fluorobenzyl)-7-hydroxy-4-methyl-2H-chromen-2-one and N-methyl-N-phenylcarbamoyl chloride.

reactant | 3-(4-fluorobenzyl)-7-hydroxy-4-methyl-2H-chromen-2-one | FC1=CC=C(CC=2C(OC3=CC(=CC=C3C2C)O)=O)C=C1 | C17H13FO3
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 3-(4-fluorobenzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester | FC1=CC=C(CC=2C(OC3=CC(=CC=C3C2C)OC(N(C2=CC=CC=C2)C)=O)=O)C=C1 | C25H20FNO4
